US04181802
A mixture of 4 parts of [(2-methoxyphenoxy)methyl]oxirane, 5.3 parts of 6-chloro-1,3-dihydro-1-(3-piperidinylmethyl)-2H-benzimidazol-2-one and 120 parts of 2-propanol is stirred and refluxed for 5 hours. The reaction mixture is cooled and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from 4-methyl-2-pentanone and 2,2'-oxybispropane. The product is filtered off and crystallized from 4-methyl-2-pentanone, yielding 2.5 parts (28%) of 6-chloro-1,3-dihydro-1-{1-[2-hydroxy-3-(2-methoxyphenoxy)propyl]-3-piperidinylmethyl}-2H-benzimidazol-2-one; mp. 167° C.

reactant | [(2-methoxyphenoxy)methyl]oxirane | COC1=C(OCC2OC2)C=CC=C1 | C10H12O3
reactant | 6-chloro-1,3-dihydro-1-(3-piperidinylmethyl)-2H-benzimidazol-2-one | ClC=1C=CC2=C(N(C(N2)=O)CC2CNCCC2)C1 | C13H16ClN3O
solvent | 2-propanol | CC(C)O | C3H8O
product | 6-chloro-1,3-dihydro-1-{1-[2-hydroxy-3-(2-methoxyphenoxy)propyl]-3-piperidinylmethyl}-2H-benzimidazol-2-one | 28% | ClC=1C=CC2=C(N(C(N2)=O)CC2CN(CCC2)CC(COC2=C(C=CC=C2)OC)O)C1 | C23H28ClN3O4
